US05852023
5-Ethoxycarbonyl-6-ethyl-4-(cis-4-trimethylsilylcyclohexylamino)pyrimidine
1.00 g (4.66 mmol) of 4-chloro-5-ethoxycarbonyl-6-ethylpyrimidine (EP 606 011), 0.84 g (4.89 mmol) of cis-4-trimethylsilylcyclohexylamine and 0.94 g (9.29 mmol) of triethylamine were heated at 70° C. for 5 hours without solvent. After cooling, the mixture was taken up in water/methyl chloride and the organic phase was dried and concentrated. The residue was purified by chromatography on silica gel using petroleum ether/ethyl acetate (4:1), to give 1.1 g (67% of theory) of a colorless oil.

reactant | 4-chloro-5-ethoxycarbonyl-6-ethylpyrimidine | 4.66 mmol, 1.00 g | ClC1=NC=NC(=C1C(=O)OCC)CC | C9H11ClN2O2
reactant | cis-4-trimethylsilylcyclohexylamine | 4.89 mmol, 0.84 g | C[Si]([C@H]1CC[C@H](CC1)N)(C)C | C9H21NSi
reactant | triethylamine | 9.29 mmol, 0.94 g | C(C)N(CC)CC | C6H15N
solvent | water methyl chloride | O.CCl
product | 5-Ethoxycarbonyl-6-ethyl-4-(cis-4-trimethylsilylcyclohexylamino)pyrimidine | C(C)OC(=O)C=1C(=NC=NC1CC)N[C@@H]1CC[C@@H](CC1)[Si](C)(C)C | C18H31N3O2Si
